US04298741
An ice-cold solution of benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (1 mmol) in anhydrous dimethylformamide (1 ml) is added dropwise to an ice-cold mixture of potassium hydride (1 mmol) in anhydrous dimethylformamide (4 ml). After stirring for several minutes in the cold and under nitrogen, the mixture is treated with diethylaminoethyl chloride and stirred in the cold for 2 hr. The mixture is diluted with ethyl acetate, washed thoroughly with water and brine, dried over magnesium sulfate, and filtered. Evaporation of the solvent in vacuo gives benzyl 6-azido-3-(2-diethylaminoethyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 1 mmol | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
reactant | potassium hydride | 1 mmol | [H-].[K+]
reactant | diethylaminoethyl chloride | C(C)N(CC)CCCl | C6H14ClN
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 6-azido-3-(2-diethylaminoethyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OCCN(CC)CC | C20H25N5O4
